US05021481
1,3-Dimethyl-2-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yloxy)-1, 3,2-diazaphospholidine
The title compound is prepared from 4-hydroxy-1-octyloxy-2, 2,6,6-tetramethylpiperidine and 2-chloro-1,3-dimethyl-1,3,2-diazaphospholidine according to the procedure of Example 6.

reactant | 4-hydroxy-1-octyloxy-2, 2,6,6-tetramethylpiperidine | OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C17H35NO2
reactant | 2-chloro-1,3-dimethyl-1,3,2-diazaphospholidine | ClP1N(CCN1C)C | C4H10ClN2P
product | 1,3-Dimethyl-2-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yloxy)-1, 3,2-diazaphospholidine | CN1P(N(CC1)C)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C21H44N3O2P
